US08039495B2
To a mixture of 4-fluoro-3-(4-iodophenoxy)methylbenzoic acid methyl ester (1.1 g, 2.85 mmol) and 4,5-difluoro-2-methoxyphenylboronic acid (0.642 g, 3.4 mmol) in DMF (15 mL) and water (2.5 mL) was added Pd(dppf)Cl2 (220 mg, 0.27 mmol) and potassium carbonate (1.24 g, 9.0 mmol). The mixture was stirred at 45° C. overnight and solvents were evaporated. The residue was extracted with ethyl acetate and water. The organic layer was dried and concentrated. The residue was purified through flash column chromatography (120 g silica gel, 5% to 40% ethyl acetate in hexanes over 25 minutes) to give a white solid as 3-(4′,5′-difluoro-2′-methoxybiphenyl-4-yloxymethyl)-4-fluorobenzoic acid methyl ester (0.76 g, 67%).

reactant | 4-fluoro-3-(4-iodophenoxy)methylbenzoic acid methyl ester | 2.85 mmol, 1.1 g | COC(C1=CC(=C(C=C1)F)COC1=CC=C(C=C1)I)=O | C15H12FIO3
reactant | 4,5-difluoro-2-methoxyphenylboronic acid | 3.4 mmol, 0.642 g | FC1=CC(=C(C=C1F)B(O)O)OC | C7H7BF2O3
reactant | potassium carbonate | 9.0 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 2.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.27 mmol, 220 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4′,5′-difluoro-2′-methoxybiphenyl-4-yloxymethyl)-4-fluorobenzoic acid methyl ester | 0.76 g, 67% | COC(C1=CC(=C(C=C1)F)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C22H17F3O4
